datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1=[C:8]=[C:9]([H:17])[H:18])[H:12])([H:10])[H:11]>>[C:0]1([H:10])([H:11])[C:1]([H:12])=[c:2]2[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]2=[C:8][C:9]1([H:17])[H:18],141.327152
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18]([C:19](=[C:20]([H:24])[H:25])[H:23])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])([H:11])[C:18]([C:19](=[C:20]([H:24])[H:25])[H:23])([H:21])[H:22])[H:10])([H:8])[H:9],37.3631
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[S:7]([C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])[H:16])[H:15]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:8]([S:7][H:15])([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])[H:16],123.763
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])[C:6]([C:7]([C:8]([C:9]([H:21])([H:22])[H:23])[C:10](=[C:11]([H:25])[H:26])[H:24])([H:19])[H:20])([H:17])[H:18])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])[C:6]([H:17])([H:18])[C:7]([H:19])([H:20])[C:8]1([C:9]([H:21])([H:22])[H:23])[C:10](=[C:11]([H:25])[H:26])[H:24])[H:12],88.7008
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])=[C:3]([O:4][H:12])[H:11])([H:5])([H:6])[H:7].[C:13]([O:14])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])=[C:3]([O:4][H:12])[H:11])([H:6])[H:7].[H:5][O:14][C:13]([H:15])([H:16])[H:17],10.8784
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[O:7][O:8]>>[C:0]([C:1](=[O:2])[H:6])([H:4])[H:5].[H:3][O:7][O:8],207.308832
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27][O:28]>>[C:0]([C:1]([C:2]([C:3]1[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:16][O:27][O:28],184.096
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([H:15])([H:16])[H:17])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:9]([C:10]([C:11]([H:15])([H:16])[H:17])[H:14])([H:12])[H:13])[H:4],35.8569
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([O:7][O:8])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:19])[H:18])([H:15])[H:16])([H:13])[H:14])([O:7][O:8][H:17])[H:12])([H:9])([H:10])[H:11],72.8016
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[H:7])([H:6])[C:11](=[C:12]([H:14])[H:15])[H:13])[H:5],9.8324
[C:0](#[C:1][N:2]([H:4])[H:5])[H:3].[O:6][H:7]>>[C:0](#[C:1][N:2][H:5])[H:3].[H:4][O:6][H:7],0.0
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]=[S:13])[H:16])([H:14])[H:15]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:12]([C:11](=[C:10]([H:14])[H:15])[H:16])=[S:13],74.4752
[C:0]([C:1]([C:2]([C:3](=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])[H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])[C:4]1([C:5]([H:14])([H:15])[H:16])[C:6]([H:17])([H:18])[H:19])([H:7])([H:8])[H:9],143.846
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23](=[C:24][C:25]([H:28])([H:29])[H:30])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[C:24](=[C:23]([H:26])[H:27])[C:25]([H:28])([H:29])[H:30])[H:14])[H:13])([H:11])[H:12],10.8366
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[C:12]([S:13][H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:17])[H:7])([H:5])[H:6].[C:12]([S:13])([H:14])([H:15])[H:16],26.7776
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:18]([H:19])([H:20])[H:21]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:9])[H:10].[H:8][C:18]([H:19])([H:20])[H:21],29.928152
[C:0]([C:1]([C:2]([C:3]1([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([C:2]([C:3]1[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])([H:12])[H:13])([H:11])[H:14])([H:8])([H:9])[H:10],143.093
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[O:11]>>[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][O:11],32.8444
